US04678786
Phenyl magnesium bromide (prepared from bromobenzene (171 g), magnesium (38.8 g) and diethyl ether (1.6 l)) was slowly added to a stirred solution of 4,5-dichloro-3[2H]-pyridazinone (60 g) in tetrahydrofuran (1 l) cooled at water bath temperature. This mixture was stirred at room temperature for 30 minutes and hydrolysed with 20% ammonium chloride solution (800 ml) in the cold. The aqueous layer was extracted with diethyl ether and the combined organic extracts were washed with dilute hydrochloric acid, water, brine, dried (MgSO4) and evaporated under reduced pressure to give 5-chloro-4-phenyl-3[2H]-pyridazinone (55.13 g), m.p. 193°-5° C. on recrystallisation from ethyl acetate.

reactant | Phenyl magnesium bromide | 1.6 l, 171 g | C1(=CC=CC=C1)[Mg]Br
reactant | 4,5-dichloro-3[2H]-pyridazinone | 60 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
reactant | ammonium chloride | 800 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | 5-chloro-4-phenyl-3[2H]-pyridazinone | 55.13 g | ClC1=C(C(NN=C1)=O)C1=CC=CC=C1 | C10H7ClN2O
